US07067529B2
To a solution of 1-(3-carboxymethoxybenzoyl)-6,7-dimethoxy-isoquinoline-4-carboxylic acid ethyl ester (93.3 mg, 0.20 mmol) in 8 ml of methylene chloride was added 10 equivalent of morpholine, 1.2 equivalent of HBTU and 4 equivalent of triethylamine. The mixture was stirred at room temperature overnight. The solvents were evaporated and the residue was extracted with ethyl acetate and water. The organic phase was dried and solvents were evaporated. The residue was dissolved in 4 ml of methanol and aqueous lithium hydroxide was added (0.5N, 1 ml). The mixture was stirred overnight until all starting material disappeared. The reaction was loaded on a preparative HPLC for purification to give 6,7-Dimethoxy-1-[3-(2-morpholin-4-yl-2-oxo-ethoxy)-benzoyl]-isoquinoline-4-carboxylic acid as a fluffy solid (20 mg, 21%). ES-MS calcd for C25H24N2O8 (m/e) 480.5, obsd 481.3 (M+H).

reactant | 1-(3-carboxymethoxybenzoyl)-6,7-dimethoxy-isoquinoline-4-carboxylic acid ethyl ester | 0.20 mmol, 93.3 mg | C(C)OC(=O)C1=CN=C(C2=CC(=C(C=C12)OC)OC)C(C1=CC(=CC=C1)OCC(=O)O)=O | C23H21NO8
reactant | morpholine | 10 equivalent | N1CCOCC1 | C4H9NO
reactant | HBTU | 1.2 equivalent | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 4 equivalent | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 8 ml | C(Cl)Cl | CH2Cl2
product | 6,7-Dimethoxy-1-[3-(2-morpholin-4-yl-2-oxo-ethoxy)-benzoyl]-isoquinoline-4-carboxylic acid | 20 mg, 21% | COC=1C=C2C(=CN=C(C2=CC1OC)C(C1=CC(=CC=C1)OCC(=O)N1CCOCC1)=O)C(=O)O | C25H24N2O8
